US06632813B1
Ethyl (N-(5-Chloro-2-nitrophenyl)carbamoyl)acetate
To a solution of 5-chloro-2-nitroaniline (25.4 g, 147 mmol) in N,N-dimethylformamide (300 ml) were added triethylamine (22.6 ml, 162 mmol) and ethyl 3-chloro-3-oxopropionate (20.7 ml, 162 mmol), and the mixture was stirred for 1 hour at room temperature. The reaction mixture was poured into ice water and the precipitated crystals were collected by filtration. These were washed with water and diisopropyl ether in sequence and then air-dried, thereby obtaining 37.1 g of title compound as yellow powder. Yield 88%.

reactant | 5-chloro-2-nitroaniline | 147 mmol, 25.4 g | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | triethylamine | 162 mmol, 22.6 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 3-chloro-3-oxopropionate | 162 mmol, 20.7 ml | ClC(CC(=O)OCC)=O | C5H7ClO3
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | Ethyl (N-(5-Chloro-2-nitrophenyl)carbamoyl)acetate | 37.1 g, Yield 88% | ClC=1C=CC(=C(C1)NC(=O)CC(=O)OCC)[N+](=O)[O-] | C11H11ClN2O5
